US04908322
5-Hydroxytryptophan ethylamide
5-Hydroxytryptophan ethyl ester hydrochloride (69 mg, obtained from Sigma Chemical Co.) was dissolved in 0.5 ml of a 70% aqueous solution of ethylamine (obtained from Aldrich Chemical Co., Inc.) and heated on a steam bath at 60° C. under argon for twelve hours. The solvent was evaporated under a stream of argon. The resulting oil was dissolved in methanol/ether and acidified with gaseous HCl. Insolubles were allowed to precipitate and the solvent decanted. The hydrochloride salt of the product (40 mg) was dried under high vacuum. Mass spectroscopy (CI-NH3) showed a parent ion at 247 mass units (m+1).

reactant | 5-Hydroxytryptophan ethyl ester hydrochloride | 69 mg | Cl.C(C)OC([C@@H](N)CC1=CNC2=CC=C(C=C12)O)=O
reactant | ethylamine | C(C)N | C2H7N
product | 5-Hydroxytryptophan ethylamide | C(C)NC([C@@H](N)CC1=CNC2=CC=C(C=C12)O)=O | C13H17N3O2
